US04001313
In a 200-ml autoclave were placed 29.2 grams (0.13 mole) of anhydrous sodium 1-aminonaphthalene-5-sulfonate, 13.2 grams (0.33 mole) of sodium amide and 110 ml of liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 200° C for 5 hours. The reaction pressure in the autoclave was 180 atm. during the reaction. After the ammonia was removed, 50 ml of methanol was added to the reaction mixture for solvolysis. The product was extracted with chloroform and the chloroform was distilled off to produce crude 1,5-diaminonaphthaline. The recrystallization thereof from ether gave 18.4 grams of 1,5-diaminonaphthalene having a melting point of 187° to 189.5° C. Yield was 89.1%.

reactant | sodium 1-aminonaphthalene-5-sulfonate | 0.13 mole, 29.2 grams | NC1=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-].[Na+]
reactant | sodium amide | 0.33 mole, 13.2 grams | [NH2-].[Na+]
reactant | ammonia | N | H3N
product | 1,5-diaminonaphthalene | 18.4 grams, Yield was 89.1% | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
